Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ recent total knee replacement 5 days ago at OSH, was 
discharged to ___ where she received large amounts of opioids, 
and subsequently developed worsening abdominal pain, 
constipation (no bowel movement post-op), and nausea without 
vomiting. Did not participate in physical therapy due to 
abdominal pain. No F/S/C/CP/SOB.

 
Past Medical History:
hypertension, hyperlipidemia, distant history of nephrolithiasis 
s/p open nephrolithotomy, osteoarthritis
 
Social History:
___
Family History:
Mother died age ___, Father died age ___ both of natural causes

 
Physical Exam:
95.4  144/88  128  20(97% RA)
GEN NAD
EYE Anicteric
ENT Moist OP
CV RRR
RESP CTA
GI Hypoactive BS, soft, tender to palpation without rebound or 
guarding
GU no CVAT
MSK Warm, trace ___ edema, right knee surgical site C/D/I
SKIN No rash
NEURO A&Ox3
PSYCH Calm
___ no LN

 
Pertinent Results:
___ 09:20PM   WBC-10.5 RBC-3.68* HGB-10.8* HCT-31.3* MCV-85 
MCH-29.4 MCHC-34.7 RDW-12.9
___ 09:20PM   NEUTS-74.3* LYMPHS-17.8* MONOS-6.5 EOS-1.2 
BASOS-0.3
___ 09:20PM   PLT COUNT-286
___ 09:20PM   GLUCOSE-149* UREA N-13 CREAT-0.7 SODIUM-141 
POTASSIUM-5.2* CHLORIDE-103 TOTAL CO2-25 ANION GAP-18
___ 09:20PM   ALT(SGPT)-36 AST(SGOT)-55* ALK PHOS-64 TOT 
BILI-1.1
___ 09:20PM   LIPASE-32
___ 09:20PM   ALBUMIN-3.5
___ 01:20AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-1 PH-8.0 LEUK-NEG
==========
CT abdomen and CT pelvis (___)
TECHNIQUE: MDCT-acquired images were obtained through the 
abdomen and pelvis 
after the uneventful administration of oral and 130 cc of IV 
Optiray contrast. 
Multiplanar reformats were reviewed. 
  
ABDOMEN: The lung bases demonstrate bibasilar subsegmental 
atelectasis. Heart 
size is normal. There is no pleural or pericardial effusion. NG 
tube tip lies 
just beyond the GE junction. 
  
The liver, spleen, gallbladder, adrenals, kidneys are grossly 
unremarkable. A 
1 cm hypodensity within the interpolar region of the right 
kidney likely 
represent simple cyst. 
  
There is no evidence of small bowel obstruction. The large bowel 
is distended 
with fluid, especially along the descending colon. There is 
small adjacent 
free fluid in the left paracolic gutter. There is no bowel wall 
thickening. 
There is no mesenteric or retroperitoneal lymphadenopathy. 
  
PELVIS: The rectum, uterus, adnexa, bladder are unremarkable. 
There is a 
moderate amount of stranding in the subcutaneous tissues of the 
right proximal 
thigh. 
  
Bone windows demonstrate no suspicious lytic or blastic lesions. 

  
IMPRESSION: 
1. Large bowel distended with fluid, may be secondary to 
gastroenteritis. 
No bowel obstruction. 
  
2. NG tube terminates just beyond the GE junction; recommend 
advancement.  
===========
AP CXR (___)
Single bedside AP examination labeled "upright at 21:30" with no 

comparisons. The lung volumes are relatively low with 
slight-moderate 
elevation of the right hemidiaphragm and associated vascular 
crowding.  
Allowing for this, there is no focal airspace process. There is 
apparent 
rounded LV enlargement with tortuous, calcified thoracic aorta, 
which may 
reflect underlying hypertension. There is no evidence of CHF. 
Noted are 
gas-filled and somewhat featureless large bowel loops in the 
upper abdomen. 
  
IMPRESSION: Low lung volumes with no acute cardiopulmonary 
process. 
==========
ECG (___)
Sinus tachycardia 
Modest ST-T wave changes - are nonspecific and unstable baseline 
makes 
comparison difficult 
No previous tracing available for comparison 

 
Brief Hospital Course:
Post-operative ileus with constipation. The patient was started 
on a bowel regimen, including mineral oil enema without 
substantial relief. One gallon of Golytely (PEG 3350) 
preparation was given and the patient had multiple bowel 
movements with resolution of her abdominal pain. She was 
discharged on Miralax (PEG 3350) and docusate for her bowel 
regimen.

She received Physical Therapy for her total knee replacement 
during her hospitalization, and her post-surgical pain was well 
managed with scheduled doses of acetaminophen.

Her outpatient lovastatin was held during her hospitalization, 
but her metoprolol was continued with good control of her blood 
pressure.
 
Medications on Admission:
lovastatin, metoprolol, ASA

 
Discharge Medications:
1. Acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours).
Disp:*240 Tablet(s)* Refills:*0*
2. Docusate Sodium 100 mg Capsule Sig: Two (2) Capsule PO BID (2 
times a day) for 4 weeks.
Disp:*112 Capsule(s)* Refills:*0*
3. Polyethylene Glycol 3350 100 % Powder Sig: One (1) tablespoon 
PO once a day for 4 weeks.
Disp:*QS * Refills:*0*
4. Metoprolol Tartrate 50 mg Tablet Sig: Two (2) Tablet PO BID 
(2 times a day).  
5. Lovastatin 40 mg Tablet Sig: One (1) Tablet PO once a day.  
6. Aspirin Tri-Buffered 324 mg Tablet Sig: One (1) Tablet PO 
once a day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1. Post-operative ileus with constipation
2. Hypertension
3. Hyperlipidemia
4. Recent total knee replacement
 
Discharge Condition:
Stable
 
Discharge Instructions:
Please start home Physical Therapy for knee rehabilitation.

Please contact your primary care physician if you develop 
fevers, sweats, chills, worsening right knee pain, diarrhea, or 
constipation.
 
Followup Instructions:
___